US08377937B2
tert-Butyl 4-chlorocarbonyl-piperazine-1-carboxylate (245 mg, 0.99 mmol) was added to a solution of N1-(4-chlorobenzyl)-N2,N2-diethylethane-1,2-diamine (235 mg, 0.98 mmol) and N,N-diisopropylethylamine (0.54 mL, 2.94 mmol) in DCM (2 mL). The reaction mixture was allowed to stir at room temperature for 1 hour. The mixture was quenched with saturated NH4Cl (2 mL) and extracted with DCM (2×5 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography to give tert-butyl 4-(N-(4-chlorobenzyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate (200 mg, 45%). 1H NMR (CDCl3, 400 MHz) 7.32 (d, J=8.4 Hz, 2 H), 7.19 (d, J=8.4 Hz, 2 H), 4.42 (s, 2 H), 3.45-3.40 (m, 4 H), 3.25-3.20 (m, 4 H), 3.18 (t, J=6.8 Hz, 2 Hz), 2.56 (t, J=6.8 Hz, 2 H), 2.49 (q, J=7.2 Hz, 4 H), 1.46 (s, 9 H), 0.99 (t, J=7.2 Hz, 6 H).

reactant | tert-Butyl 4-chlorocarbonyl-piperazine-1-carboxylate | 0.99 mmol, 245 mg | ClC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C10H17ClN2O3
reactant | N1-(4-chlorobenzyl)-N2,N2-diethylethane-1,2-diamine | 0.98 mmol, 235 mg | ClC1=CC=C(CNCCN(CC)CC)C=C1 | C13H21ClN2
reactant | N,N-diisopropylethylamine | 2.94 mmol, 0.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(N-(4-chlorobenzyl)-N-(2-(diethylamino)ethyl)carbamoyl)piperazine-1-carboxylate | 200 mg, 45% | ClC1=CC=C(CN(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)CCN(CC)CC)C=C1 | C23H37ClN4O3
